US07601716B2
1-Benzyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (50 mg) was dissolved in anhydrous tetrahydrofuran and added to LiAlH4 (1 M in tetrahydrofuran, 9.0 eq) over 2 minutes. After stirring for 35 minutes at room temperature, the reaction mixture was quenched with wet ether, diluted with ethyl acetate and H2O, and filtered. The organic phase was isolated, dried, filtered, and concentrated. Silica gel chromatography (0-10% methanol in CH2Cl2) gave the title compound as a pale yellow film (10% yield). M.p. (film), LCMS: m/z=226.19 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.35-3.40 (m, 2H), 3.52-3.57 (m, 2H), 4.40 (s, 2H), 4.83 (bs, 1H), 6.41-6.50 (m, 1H), 6.56-6.63 (m, 1H), 7.20-7.38 (m, 5H), 7.43 (d, J=1.2H).

reactant | 1-Benzyl-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 50 mg | C(C1=CC=CC=C1)N1C2=C(NCC1=O)N=CC(=C2)I | C14H12IN3O
reactant | LiAlH4 | 1 M, 9.0 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Benzyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 10% yield | C(C1=CC=CC=C1)N1C2=C(NCC1)N=CC=C2 | C14H15N3
